Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
Central Venous Line x2
Arterial Line
 
History of Present Illness:
This is a ___ with CAD, CHF, PVD, aplastic anemia (last 
transfusion ___, and DM2, who presented to the ED after his 
family called EMS for agonal breathing. He was intubated in the 
field and brought to the ED. As he is intubated and sedated, 
history is obtained from the ___ medical record and family.  

In the ED, he was fighting the vent; he had poor peripheral 
access, so a groin line was placed. While placing the groin 
line, no femoral pulse was present and the rhythm on the bedside 
monitor was wide complex. Epinephrine was given via ETT and once 
venous access was obtained, CaCl2, bicarb, and insulin were 
administered. He never received chest compressions, as 
spontaneous circulation returned quickly (<45 seconds, according 
to ED resident). He received kayexalate via OG tube. He is 
receiving 2 units of PRBCs for Hct of 21. Vital signs at the 
time of transfer were afebrile, pulse 120s, SBP 130s-140s, 
vented with good O2 saturation.  

ROS: Unable to obtain  

 
Past Medical History:
# Diabetes Mellitus type 2  
# Hypertension  
# Chronic Kidney Disease, Cr 1.6-1.9  
# Coronary Artery Disease s/p balloon angioplasty in ___ & 
NSTEMI in ___  
# scar-mediated VT, s/p failed ablation  
# aplastic anemia/MDS, Hct ___ & transfusion dependent (most 
recent was ___ for Hct of 22.1); platelets usually 70-130k; 
WBC usually 3.0-4.0k.  
# Peripheral Vascular Disease s/p R fem-pop bypass in ___  
# s/p right Carotid Endarterectomy in ___ left carotid 
artery completely occluded but asymptomatic  
# s/p right ___ toe amputation in ___  

 
Social History:
___
Family History:
His mother and sister have diabetes mellitus type two. Many 
members of his family have hyptertension. 

 
Physical Exam:
On Presentation:

Vitals: T:92.6 BP:133/83 HR:65 Vent: AC 600x14(24), 5 PEEP, 40% 
FiO2 O2Sat: 99%  
GEN: thin elderly male intubated, nonresponsive, after receiving 
versed in the ED  
HEENT: EOMI, PERRL 4-2mm and brisk, sclera anicteric, no 
epistaxis or rhinorrhea, MMM, OP Clear  
NECK: No JVD, carotid pulses brisk, no bruits, no cervical 
lymphadenopathy, trachea midline  
COR: RRR, no M/G/R, normal S1 S2, radial pulses doppler on R, 1+ 
on Left, where there is a large hematoma  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, no HSM, no masses  
EXT: No C/C/E, no palpable cords  
NEURO: + gag, + corneals, but no withdrawal to pain/noxious 
stimuli  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 
No petechiae  

 
Pertinent Results:
IMAGING:
CT A/P: Prelim read:
Limited noncontrast evaluation. Bilateral moderate pleural 
effusions and 
bibasilar consolidations likely representing aspiration in the 
setting of 
recent cardiac/respiratory arrest. Mild free abdominal fluid and 
anasarca. 
Large gallstone. No definite evidence for acute intra-abdominal 
process.

HEAD CT:
No evidence of hemorrhage. Multifocal areas of cortical and 
subcortical hypodensity represent chronic infarct, though 
further evaluation with MRI may be pursued to evaluate for acute 
or subacute components. 
 
ECHo: 
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity is moderately dilated. 
No masses or thrombi are seen in the left ventricle. Overall 
left ventricular systolic function is severely depressed (LVEF= 
20 %) with akinesis of the inferior, infero-lateral, distal 
LV/apical segments. Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). The right 
ventricular cavity is mildly dilated with moderate global free 
wall hypokinesis. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. The aortic arch is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

ADMISSION LABS:
-___ BLOOD WBC-3.2* RBC-1.83* Hgb-6.8* Hct-21.0* MCV-116* 
MCH-37.1* MCHC-32.1 RDW-20.9* Plt Ct-28*#
-___ BLOOD ___ PTT-90.5* ___
-___ BLOOD FDP->1280*
-___ BLOOD Glucose-235* UreaN-120* Creat-4.7* Na-142 K-5.7* 
Cl-107 HCO3-10* AnGap-31*
-___ BLOOD ALT-1592* AST-1808* LD(LDH)-2890* CK(CPK)-9394* 
AlkPhos-147* TotBili-4.3* DirBili-2.6* IndBili-1.7
-___ BLOOD CK-MB-60* MB Indx-0.6 cTropnT-1.14*
-___ BLOOD Albumin-3.6 Calcium-10.2 Phos-10.6*# Mg-3.5*
-___ BLOOD Hapto-<20*
-___ BLOOD D-Dimer-8754*
-___ BLOOD Cortsol-158.6*
-___ BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
-___ BLOOD pO2-502* pCO2-23* pH-7.05* calTCO2-7* Base 
XS--___ BLOOD Glucose-GREATER TH Lactate-12.5* Na-134* K-6.3* 
Cl-106 calHCO3-9*
 
Brief Hospital Course:
___ with multiple medical problems including DM2, CAD, CHF, 
aplastic anemia, CKD, who presented to the ICU s/p respiratory 
and cardiac arrests with hyperkalemia, acute on chronic renal 
failure, and DIC. The exact nature of these events is unclear, 
but he has had worsening renal function over the past week, 
leading to electrolyte disturbances and possibly an 
arrhythmogenic cardiac arrest with spontaneous return of 
circulation prior to the arrival of EMS. On admission, patient 
was intubated, unresponsive, in acute renal failure, liver 
failure and had cardiac damage as evidenced by elevated cardiac 
biomarkers. He was aggressively fluid recussitated, started on 
broad spectrum antibiotics for presumed sepsis, transfused RBC's 
and started on pressors for blood pressure support.  Heme/onc 
was consulted and patient was determined to be in DIC.  Renal 
was consulted and it was determined that renal replacement 
therapy was not indicated.  

Patient was maintained on vent, antibiotics and pressors but 
continued to deteriorate with worsening renal function, no 
improvement in respiratory status, and decreasing blood pressure 
to systolics of 30 in spite of pressor support.  The decision 
was made by his family to make patient comfort measures only.  
He was started on a morphine drip for comfort, extubated and all 
non-comfort medications were discontinued.  He expired on ___ 
at 12:10pm. 

 
Medications on Admission:
Folic Acid 2 mg daily  
Clopidogrel 75 mg daily  
Aspirin 325 mg daily  
pravastatin 10 mg daily  
Isosorbide Dinitrate 60mg tid  
Hydralazine 25 mg tid  
Metoprolol Tartrate 75mg bid  
furosemide 20mg daily  
Neoral 50mg QAM and 25 mg QPM -- HELD for elevated Cr since 
___  
Procrit everyother week, started ___  
novolin 70/30 insulin, unknown dose  

 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
none

 
Discharge Condition:
Expired.
 
Discharge Instructions:
none
 
Followup Instructions:
___